US07728150B2
N-[3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indol-7-yl]-acetamide
Utilizing 3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indol-7-ylamine and acetic anhydride, the title compound is prepared as in example 15. 0.16 g (46%). LC-MS m/z 337.1 (M++1).

reactant | 3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indol-7-ylamine | C(C)C1(CCC2=CC(=CC=C12)F)C1=CNC2=C(C=CC=C12)N | C19H19FN2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-[3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indol-7-yl]-acetamide | C(C)C1(CCC2=CC(=CC=C12)F)C1=CNC2=C(C=CC=C12)NC(C)=O | C21H21FN2O
